US05292760
A solution of 5.0 g of 2-amino-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine, 18.02 ml trimethyl orthobutyrate and 6.8 ml of glacial acetic acid was refluxed for 8 hours under a nitrogen atmosphere. The solution was concentrated at 40° C. on a rotary evaporator and the residual oil was acidified with 10% hydrochloric acid solution (60 ml) and extracted with diethyl ether (3×70 ml). The acidic aqueous phase was basified with 10% sodium hydroxide solution (100 ml) and extracted with diethyl ether (3×100 ml). The ethereal phase was dried over sodium sulfate/magnesium sulfate, filtered and concentrated to an oil. Purification was accomplished by HPLC (Water's Associates Prep LC/System 500A, silica gel, utilizing methanol followed by 2% triethylamine in methanol as successive eluents). Concentration of the appropriate fractions yielded 4,5-dihydro-3-methyl-4-(3-methyl-2-thienyl)-2-(1-propyl)-3H-1,3-benzodiazepine as an oil.

reactant | 2-amino-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 5.0 g | NC1=C(C=CC=C1)CC(NC)C=1SC=CC1C | C14H18N2S
reactant | trimethyl orthobutyrate | 18.02 ml | C(CCC)(OC)(OC)OC | C7H16O3
solvent | acetic acid | 6.8 ml | C(C)(=O)O | C2H4O2
product | 4,5-dihydro-3-methyl-4-(3-methyl-2-thienyl)-2-(1-propyl)-3H-1,3-benzodiazepine | CN1C(=NC2=C(CC1C=1SC=CC1C)C=CC=C2)CCC | C18H22N2S
